US08106190B2
A mixture of methyl (2-chloro-4,6-dinitrophenyl)acetate, ammonium chloride, iron powder, ethanol and water was stirred at 120° C. for 3 hours. The reaction liquid was filtered, trifluoroacetic acid was added to the filtrate, followed by stirring overnight at room temperature. The reaction liquid was concentrated under a reduced pressure, 1 M sodium hydroxide was added to the residue, and this was post-treated to obtain 6-amino-4-chloro-1,3-dihydro-2H-indol-2-one.

reactant | methyl (2-chloro-4,6-dinitrophenyl)acetate | ClC1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])CC(=O)OC | C9H7ClN2O6
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethanol | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 6-amino-4-chloro-1,3-dihydro-2H-indol-2-one | NC1=CC(=C2CC(NC2=C1)=O)Cl | C8H7ClN2O
